US04910216
In 30 ml of dry dimethylformamide was dissolved 0.88 g of 60% sodium hydride in oil. With ice cooling and stirring, a solution of 5.62 g of 2-(4-hydroxy-3,5-dimethylphenyl)-5-methoxy-3-methylindole in dry dimethylformamide was added dropwise. After the addition, the mixture was stirred further for 1 hour. A solution of 2.2 g of succinic anhydride in dimethylformamide was added dropwise to the resulting solution. After the addition, the mixture was stirred at room temperature for 2 hours, then heated at 50° C. for 30 minutes, and further stirred at room temperature for 3 hours. The reaction solution was poured into water, acidified with dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, and extracted with aqueous sodium bicarbonate solution. The extracted aqueous layer was acidified with dilute hydrochloric acid, and extracted with 100 ml of ethyl acetate three times. The organic layers were washed and dried, and the solvent was evaporated under reduced pressure to give a crystalline residue. Rerrystallization of the residue from ethyl acetate/benzene gave 2-4-(3-carboxy- propionyloxy)-3,5-dimethylphenyl]-5-methoxy-3-methylindole.

reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | 2-(4-hydroxy-3,5-dimethylphenyl)-5-methoxy-3-methylindole | 5.62 g | OC1=C(C=C(C=C1C)C=1NC2=CC=C(C=C2C1C)OC)C | C18H19NO2
reactant | succinic anhydride | 2.2 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate benzene | C(C)(=O)OCC.C1=CC=CC=C1
solvent | water | O | H2O
product | 5-methoxy-3-methylindole | COC=1C=C2C(=CNC2=CC1)C | C10H11NO
